US07049310B2
c) 2-Chloro-1-methyl-2-(methylaminomethyl)-1H-indole
According to the procedure of Preparation 12, except substituting 2-chloro-1-methyl-1H-indole-3-carboxaldehyde (3.0 g, 15.5 mmole) for the 1-methylindole-3-carboxaldehyde, the title compound (2.91 g, 90%) was prepared as an oil: 1H NMR (400 MHz, CDCl3) δ 7.60 (d, J=7.9 Hz, 1 H), 7.22 (m, 2 H), 7.13 (m, 1 H), 3.92 (s, 2 H), 3.71 (s, 3 H), 2.44 (s, 3 H).

reactant | 2-chloro-1-methyl-1H-indole-3-carboxaldehyde | 15.5 mmole, 3.0 g | ClC=1N(C2=CC=CC=C2C1C=O)C | C10H8ClNO
reactant | 1-methylindole-3-carboxaldehyde | CN1C=C(C2=CC=CC=C12)C=O | C10H9NO
product | 2-Chloro-1-methyl-2-(methylaminomethyl)-1H-indole | 2.91 g, 90% | ClC1(N(C2=CC=CC=C2C1)C)CNC | C11H15ClN2
